US05149642
1-Docosanoyl-2-octanoyl-3-decanoyl rac-glycerol is prepared from 1-docosanoyl-2-octanoyl rac-glycerol (18.5 mmole, 10.0 g) and decanoic anhydride (18.5 mmole, 6.05 g) with DMAP (0.5 g) analogously to Example V with the yield 11 g (85%).

reactant | 1-docosanoyl-2-octanoyl rac-glycerol | 18.5 mmole, 10.0 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC(OC(CCCCCCC)=O)CO | C33H64O5
reactant | decanoic anhydride | 18.5 mmole, 6.05 g | C(CCCCCCCCC)(=O)OC(CCCCCCCCC)=O | C20H38O3
catalyst | DMAP | 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Docosanoyl-2-octanoyl-3-decanoyl rac-glycerol | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC(OC(CCCCCCC)=O)COC(CCCCCCCCC)=O | C43H82O6
